Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Right hand weakness and incoordination. 
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
Patient is a ___ year old RHD M w/ PMH HTN, HLD presents with 
acute onset hand
discoordination.

He states that he was in his usual state of health until this 
morning.  He had gone to sleep at 12:15 AM this this morning 
after waiting for the new year to pass.  He states that he did 
not have any alcohol during the previous night.  He went to 
sleep he was in his usual state of health.  When he woke up this
morning at 9 AM when he sat up he noticed that he heard an 
echoing noise, he stated that everything seemed louder in both 
ears.  He denied any ringing.  He states that he then went to 
put his pants on and was not able to button his pants with his 
right hand.  As he progressed through his morning he noticed 
that he could not take his morning medications.  He had open the 
bottle
with his left hand as of his right hand and subsequently knocked 
over pill bottle spilling the pills onto the table.  He was then 
unable to put back the pills into the bottle.  He also notes 
that he had difficulty holding a glass.  His wife had to stop 
him as he put down in orange juice glass and a strange angle 
that would have resulted in its feeling potentially.  He says he 
then went
to use a computer and was not able to type with his right hand.  
Was at this point that he presented for evaluation.  He states 
that since he first arrived in the emergency department he has 
noticed that his symptoms have been improving.  He denies any 
weakness of his hand he states that the hand does not seem to do 
what he wanted to do.  He has not had similar symptoms before. 
He has no neurological problems prior to this.  He states that 
he noticed his signature was abnormal when he first signed in to 
the emergency room.  He states that later when asked to sign his 
name by the emergency room physician that his signature was 
improved from earlier, but still not at baseline.
 
On neuro ROS, the patient denies headache, loss of vision, 
blurred vision, diplopia, dysarthria, dysphagia, 
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies 
difficulties producing or comprehending speech.  Denies focal 
weakness, numbness, parasthesiae. No bowel or bladder 
incontinence or
retention. Denies difficulty with gait.  

On general review of systems, the patient denies recent fever or 
chills.  No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or abdominal pain.  No recent change in bowel or bladder habits. 
 No dysuria.  Denies arthralgias or myalgias. Denies rash. 

 
Past Medical History:
HTN
HLD
 
Social History:
___
Family History:
Father with stroke at age ___
Heart problems in the family  
 
Physical Exam:
===============================
ADMISSION PHYSICAL EXAMINATION:
===============================
Physical Exam: 
Vitals: T: 96.0 HR 80 BP 162/76 RR 17 Spo2 100%
General: Awake, cooperative, NAD. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity 
Pulmonary: Normal work of breathing 
Cardiac: RRR, warm, well-perfused 
Abdomen: soft, non-distended 
Extremities: No ___ edema. 
Skin: no rashes or lesions noted. 

Neurologic:
Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors.  
Patient was able to name both high and low frequency objects.  
Able to read without difficulty. Speech was not dysarthric. Able 
to
follow both midline and appendicular commands. There was no 
evidence of apraxia or neglect.

Cranial Nerves: 
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation. Visual acuity 
___ bilaterally. 
V: Facial sensation intact to light touch. 
VII: No facial droop, facial musculature symmetric. 
VIII: Hearing intact to finger-rub bilaterally. 
IX, X: Palate elevates symmetrically. 
XI: ___ strength in trapezii bilaterally. 
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. 
No adventitious movements, such as tremor, noted. No asterixis
noted. 
   Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___  
 L  5    ___    ___   5    5     5     5    
 R  5    ___    5-  ___    5     5     5 

Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS.  Romberg absent. 

Agraphesthesia on R hand. Not able to recognize a key in his R
hand with eyes closed. 

DTRs: 
   Bi Tri ___ Pat Ach 
 L  2  2    2    2   1 
 R  2  2    2    2   1 
 Plantar response was flexor bilaterally. 

Coordination: 
No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

Gait: Good initiation. Narrow-based, normal stride and arm 
swing. 

===============================
DISCHARGE PHYSICAL EXAMINATION:
===============================
Vitals:
Temp: 97.9 (Tm 98.6)
BP: 131/71 (131-154/70-74) 
HR: 68 (56-68) 
RR: 18 (___) 
O2 sat: 96% (91-96) 
O2 delivery: RA

General physical examination: 
General: Comfortable and in no distress 
Head: No irritation/exudate from eyes, nose, throat 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No rashes or lesions 

Mental status: 
Patient is alert and oriented to name, place, location.  Patient
is able to clearly provide his history of present illness 
without
errors in language. He has no difficulty with reading.  He had 
no
difficulty with interpreting cookie jar picture.  No difficulty
with naming low and high frequency objects.  No difficulty with
repetition.  He can differentiate right and left side.  

Cranial nerves: 
No visual field cuts.  Pupils are equal, round, and reactive to
light (3 to 2 mm). Extraocular movement intact.  Facial 
sensation
intact.  Face symmetric.  Hearing intact.  Palate elevates
symmetric.  Tongue protrudes to midline.  Shoulder rise
symmetrically.  

Motor: 
Expected bulk and tone.  Right hand cupping with arms held up. 
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    5   4+  5     5    5   5      5     5

Sensory: 
He appreciates pinprick in upper and lower extremities. 

Coordination: 
Finger to nose with no difficulty.  Finger movements are 
accurate
and precise.  Alternating movements with no difficulty.

Reflexes and gait deferred. 

  

 
Pertinent Results:
A1C: 5.8% 
LDL: 75 

MRI Brain ___: 
IMPRESSION: 
1. Study is mildly degraded by motion. 
2. Punctate medial and lateral left postcentral gyrus acute to 
subacute 
infarctions, concerning for embolic source. 
3. No evidence of acute intracranial hemorrhage. 
4. Probable chronic small vessel ischemic disease. 
5. Chronic right cerebellar infarct. 
6. Paranasal sinus disease, as described. 

Cardiac echo ___: 
Atrium of normal caliber and no left ventricular thrombus. 

NCHCT/CT head and neck ___:
 
1. No acute hemorrhage.  No evidence for acute major vascular 
territorial 
infarction; MRI would be more sensitive if clinically warranted. 

2. Small chronic infarcts within bilateral frontal lobes and 
bilateral 
cerebellar hemispheres.  Supratentorial white matter hypo 
densities are 
nonspecific but likely sequela of chronic small vessel ischemic 
disease in 
this age group. 
3. Calcified plaque causes moderate right and mild left 
vertebral artery 
origin narrowing, as well as mild to moderate narrowing of the 
proximal V4 
segment of the left vertebral artery. 
4. Bilateral proximal internal carotid atherosclerosis without 
stenosis by 
NASCET criteria. 
5. Mild irregularity without stenosis involving the distal 
cervical right 
internal carotid artery, M2 segment of the right middle cerebral 
artery, A1 and A2 segments of bilateral anterior cerebral 
arteries, P1 segment of the left posterior cerebral artery, and 
P 2 segment of the right posterior 
cerebral artery, are likely atherosclerotic.  Irregularity and 
mild narrowing of the P2 segment of the right posterior cerebral 
artery is likely also atherosclerotic. 
6. Paramediastinal subpleural changes in the visualized apical 
upper lobe of the right lung may be secondary to scarring. 
7. Large right paracentral endplate osteophytes at C5-C6 remodel 
the ventral spinal cord.  This may be better evaluated by 
cervical spine MRI if clinically warranted. 
  

 
Brief Hospital Course:
Patient is a ___ year old man with past medical history of 
hypertension and hyperlipidemia whom presented with right hand 
weakness and incoordination.  Patient was found to have multiple 
punctate medial and lateral left postcentral gyrus acute to 
subacute infarctions.  We believe the etiology is cardioembolic 
secondary to paroxysmal atrial fibrillation.  However, during 
hospitalization the patient was monitored by telemetry and there 
was no abnormal rhythms captured.  Patient was started on 
apixiban for anticoagulation for presumed atrial fibrillation 
and will be discharged with plans for cardiac event monitoring 
(cardiology has been contact you coordinate Reveal Placement).  
Patient was previously taking aspirin and he has been told to 
discontinue this medication.  Patient is already on simvastatin 
40 mg daily and his LDL this admission was 75.  Patient's A1C 
was 5.8.  Of note, patient has old infarct in the right 
cerebellum which patient denies past coordination symptoms from. 
 Patient has been advised to follow up with his primary care 
physician one to two weeks post hospitalization and to obtain a 
referral to see a stroke neurologist for follow up.  

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = 79) - () No  
5. Intensive statin therapy administered? (x) Yes - () No [if 
LDL >70]
 6. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for follow up) given (verbally or 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
 9. Discharged on statin therapy? (x) Yes - () No 
 10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - () N/A  
  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Simvastatin 40 mg PO QPM 
3. Lisinopril 40 mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID Atrial fibrillation 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*5 
2.  Hydrochlorothiazide 25 mg PO DAILY  
3.  Lisinopril 40 mg PO DAILY  
4.  Simvastatin 40 mg PO QPM  
5.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Punctate medial and lateral left postcentral gyrus acute to 
subacute 
infarctions 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

You presented to the hospital principally because of acute onset 
right hand weakness and were found to have multiple small 
strokes.  We believe that you had your strokes secondary to an 
abnormal heart rhythm that can increase the risk of blood clot 
formation called atrial fibrillation.  We have no direct 
evidence that you have had this rhythm, but based on the 
distribution of strokes in your brain it is most likely this 
rhythm is the cause.  We will discharge you with plans to have 
home cardiac monitoring done in order to potentially detect this 
abnormal rhythm.  We have also started you on apixiban to thin 
your blood and reduce your risk of forming blood clots.  You 
were previously taking aspirin daily, but this medication should 
no longer be taken while taking apixiban.  Please take all your 
other home medications as previously prescribed. 

Please follow up with your primary care physician in one to two 
weeks in order to follow up on this hospitalization and please 
have him place a referral for you to follow up with a stroke 
neurologist.  

Thank you for allowing us to care for you, 
___ Stroke Team     
 
Followup Instructions:
___